US08609656B2
N-(1-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-1H-benzimidazol-5-yl)acetamide (Table 1, Compound No. 42)
The title compound can be synthesized from 1-[4-[5-aminobenzimidazol-1-yl]phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride and acetic anhydride by the same method as in Example 41.

reactant | 1-[4-[5-aminobenzimidazol-1-yl]phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride | Cl.NC1=CC2=C(N(C=N2)C2=CC=C(C=C2)NC(=O)NC2=CC(=C(C=C2)Cl)C(F)(F)F)C=C1
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-(1-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-1H-benzimidazol-5-yl)acetamide | ClC1=C(C=C(C=C1)NC(NC1=CC=C(C=C1)N1C=NC2=C1C=CC(=C2)NC(C)=O)=O)C(F)(F)F | C23H17ClF3N5O2
